US05693787
Trans 2-Carboethoxy-4-Acetoxy-1,3-Dioxolane
A 2.5:1 mixture of cis and trans-2-carboethoxy-4-acetyl-1,3-dioxolane (406 mg, 2.16 mmol), 85% mCPBA (68 mg, 3.81 mmol) and sodium carbonate (389 mg, 3.67 mmol) in dry dichloromethane (10 mL) was stirred under argon for 16 hours at room temperature. The resultant suspension was diluted with dichloromethane and water and stirred for 10 minutes. The aqueous phase was removed and the organic phase was washed successively with saturated sodium thiosulfate, water, brine and then was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the crude product thus obtained was subjected to flash column chromatography (30% EtOAc-Hexanes) to give the title compound (49% yield) which displayed the following spectral characteristics; 1H NMR (CDCl3): δ 1.29 (t, 3H, J=7.2 Hz), 2.09 (s, 1H), 4.12 (d of d, 1H, J=0.9, 9.1 Hz), 4.19-4.31 (m, 3H), 5.53 (s, 1H), 6.48 (d of d, 1H, J=0.9, 3.9 Hz).

reactant | trans-2-carboethoxy-4-acetyl-1,3-dioxolane | 2.16 mmol, 406 mg | C(=O)(OCC)[C@@H]1OC[C@H](O1)C(C)=O | C8H12O5
reactant | mCPBA | 3.81 mmol, 68 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | 3.67 mmol, 389 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Trans 2-Carboethoxy-4-Acetoxy-1,3-Dioxolane | 49% yield | C(=O)(OCC)[C@@H]1OC[C@H](O1)OC(C)=O | C8H12O6
